US06228877B1
3,4-Bis-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione (50 mg, 0.11 mmole), as prepared in Example 2 g, was dissolved in N,N-dimethylformamide (10 mL), a catalytic amount of activated Raney Nickel was added and the reaction was shaken on a Parr Hydro-genator at 45 psi. for 20 hr. The reaction mixture was filtered through a bed of celite with ethyl acetate and concentrated. The product was purified by recrystallization from acetone and hexane to give 3,4-bis-(1-methyl-6-amino-1H-indol-3-yl)-pyrrole-2,5-dione (35 mg).

reactant | 3,4-Bis-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | 0.11 mmole, 50 mg | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H15N5O6
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | Raney Nickel | [Ni] | Ni
product | 3,4-bis-(1-methyl-6-amino-1H-indol-3-yl)-pyrrole-2,5-dione | 35 mg | CN1C=C(C2=CC=C(C=C12)N)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N)C)=O)=O | C22H19N5O2
